US07199239B2
Intermediate 76: 2-Bromo-6-(4-chlorophenyl)pyrazine
To a flask containing 2-chloro-6-(4-chlorophenyl)pyrazine (2.35 g, 10.4 mmol), was added phosphorus tribromide (17 mL) and the mixture heated at reflux for 6 h under nitrogen. The reaction mixture was cooled to room temperature prior to pouring carefully into iced water (600 mL) the resulting mixture was adjusted to pH 6–7 using aqueous ammonia and extracted with diethyl ether (2×250 mL). The organic solution was dried (MgSO4) and the solvent removed in vacuo. The reaction had not gone to completion so the residue was treated with added phosphorus tribromide (17 mL) and heated at reflux for a further 5 h under nitrogen. Work up as before afforded the title compound as a pale yellow solid (0.97 g).

reactant | 2-chloro-6-(4-chlorophenyl)pyrazine | 10.4 mmol, 2.35 g | ClC1=NC(=CN=C1)C1=CC=C(C=C1)Cl | C10H6Cl2N2
reactant | phosphorus tribromide | 17 mL | P(Br)(Br)Br | Br3P
reactant | ammonia | N | H3N
solvent | water | 600 mL | O | H2O
product | 2-Bromo-6-(4-chlorophenyl)pyrazine | 0.97 g | BrC1=NC(=CN=C1)C1=CC=C(C=C1)Cl | C10H6BrClN2
